US08350044B2
Preparation of methyl-(2-pyridin-3-yl-thiazol-5-yl)-amine
A suspension of phosphorus pentasulfide (1.73 g, 7.8 mmol) and N-methylcarbamoylmethyl-nicotinamide (1 g, 5 mmol) in dry toluene (10 mL) was stirred at reflux under nitrogen for 16 h. The mixture was cooled to room temperature and then dry pyridine (4 mL) was added. The mixture was stirred at reflux under nitrogen for 8 h, then it was cooled to room temperature and the organic layer was removed. The dark residue was treated with hot saturated aqueous sodium bicarbonate (Na2CO3, 40 mL) and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine (50 mL), dried over magnesium sulfate (MgSO4), and purified by silica gel chromatography (1% methanol in dichloromethane) to yield a brown amorphous solid (0.22 g, 22%): mp 141-146° C.; 1H NMR (300 MHz, CDCl3) δ 8.97 (d, J=2.4 Hz, 1H), 8.53 (dd, J=5.0, 1.8 Hz, 1H), 8.06 (ddd, J=7.2, 3.3, 0.6 Hz, 1H), 7.31 (ddd, J=5.5, 4.7, 0.5 Hz, 1H), 6.96 (s, 1H), 2.97 (d, J=5.0 Hz, 3H); ESIMS m/z 192 (M+1).

reactant | phosphorus pentasulfide | 7.8 mmol, 1.73 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | N-methylcarbamoylmethyl-nicotinamide | 5 mmol, 1 g | CNC(=O)CNC(C1=CN=CC=C1)=O | C9H11N3O2
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | methyl-(2-pyridin-3-yl-thiazol-5-yl)-amine | 0.22 g, 22% | CNC1=CN=C(S1)C=1C=NC=CC1 | C9H9N3S
